### ISSUE TITLE
AXIOM-10: Derive evolution_matches_actualization (redundant)

### ISSUE THREAD

**Issue by jdlongmire** [jdlongmire/logic-realism-theory#47]
## Axiom
`evolution_matches_actualization` (Step8_TemporalEmergence.lean:151)

## Current Form
```lean
axiom evolution_matches_actualization : U(t₂) = U(t₂-t₁) * U(t₁)
```

## Status
**DERIVABLE** — redundant with group law

## Analysis
This is just the group composition law restated:
- `evolution_group_composition`: U(s+t) = U(s) * U(t)
- Let s = t₂-t₁, t = t₁
- Then U((t₂-t₁)+t₁) = U(t₂-t₁) * U(t₁)
- Simplify: U(t₂) = U(t₂-t₁) * U(t₁)

No new content.

## Derivation Path
```lean
theorem evolution_matches_actualization (t₁ t₂ : ℝ) :
  time_evolution_family t₂ = time_evolution_family (t₂ - t₁) * time_evolution_family t₁ := by
  have h := evolution_group_composition (t₂ - t₁) t₁
  simp at h
  exact h
```

## Reduction
Part of Step 8 consolidation: 3 axioms → 0 axioms

This axiom is literally redundant — should have been a theorem from the start.

## Blocked By
#43 (evolution_group_composition)
